US08022062B2
7-Chloro-6-(2-methanesulfonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 1-bromomethyl-2-methanesulfonyl-benzene to give, after deprotection by the General Procedure 1-4, the title compound and as a white solid. MS (APCI+) m/z: 382 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 1-bromomethyl-2-methanesulfonyl-benzene | BrCC1=C(C=CC=C1)S(=O)(=O)C | C8H9BrO2S
product | 7-Chloro-6-(2-methanesulfonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=C(C=CC=C1)S(=O)(=O)C | InChI=1S/C18H20ClNO2S2.ClH/c1-24(21,22)17-5-3-2-4-14(17)12-23-18-15-9-11-20-10-8-13(15)6-7-16(18)19;/h2-7,20H,8-12H2,1H3;1H
